US08497264B2
In a microwave vial, the pyridin-3-ylboronic acid (0.061 g, 0.495 mmol), (S)-5-amino-2′-(5,6-dihydro-2H-pyran-3-yl)-4′-fluoro-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthene]-7′-yl trifluoromethanesulfonate (0.196 g, 0.381 mmol), and Pd(PPh3)4 (0.044 g, 0.038 mmol) were suspended in dmf (4.1 mL). Aqueous sodium carbonate (1.0 M, 1.143 mL, 1.143 mmol) was added. Argon was blown through the vessel, which was sealed and heated in an 85° C. oil bath (11:40). After 1.5 h the reaction was concentrated. The residue was taken up in EtOAc (100 mL) and the organic layer was extracted with water (15 mL), brine (, then was dried over sodium sulfate and concentrated. The residue was purified by chromatography (7.5% MeOH/DCM) to afford (S)-2′-(5,6-dihydro-2H-pyran-3-yl)-4′-fluoro-7′-(pyridin-3-yl)-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-5-amine (99 mg, 0.22 mmol). MS (m/z) 444 (M+H)+. 1H NMR (400 MHz, CDCl3) δ ppm; 8.85 (s, 1H), 8.57 (d, 1H, J=4.5 Hz), 7.86 (d, 1H, J=8.0 Hz), 7.50 (m, 2H), 7.36 (m, 2H), 7.08 (dd, 1H, J=11.7, 2.0 Hz), 6.99 (s, 1H), 6.17 (s, 1H), 4.46 (m, 2H), 4.33 (s, 2H), 3.85 (t, 2H, J=5.7 Hz), 3.57 (m, 2H), 2.33 (m, 2H).

reactant | pyridin-3-ylboronic acid | 0.495 mmol, 0.061 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | (S)-5-amino-2′-(5,6-dihydro-2H-pyran-3-yl)-4′-fluoro-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthene]-7′-yl trifluoromethanesulfonate | 0.381 mmol, 0.196 g | FC(S(=O)(=O)OC1=CC=C2OC=3C(=CC(=CC3[C@@]3(C2=C1)COCC(=N3)N)C=3COCCC3)F)(F)F | C22H18F4N2O6S
reactant | sodium carbonate | 1.143 mmol, 1.0 M, 1.143 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.038 mmol, 0.044 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-2′-(5,6-dihydro-2H-pyran-3-yl)-4′-fluoro-7′-(pyridin-3-yl)-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-5-amine | 0.22 mmol, 99 mg | O1CC(=CCC1)C1=CC=2[C@@]3(C4=CC(=CC=C4OC2C(=C1)F)C=1C=NC=CC1)COCC(=N3)N | C26H22FN3O3
